US05137653
To this solution was added dropwise 2.61 g (10.1 mmol) of the above 4-bromobenzyl-(1-ethoxy) ethyl ether over 40 minutes. After the completion of the addition, the mixture was heated under reflux for 1 hour and cooled to -78° C., to which was added dropwise 1.70 g (9.6 mmol) of (+)-2-methyl octanoic acid chloride dissolved in 20 ml of tetrahydrofuran over 40 minutes. The mixture was stirred at -78° C. for 3 hours and gradually turned to room temperature. It was added with 10 ml of a normal hydrochloric acid cooled at 0° C. and stirred for 1 hour. The product was extracted with ether and washed with a saturated aqueous solution of sodium hydrogen carbonate and further a saturated aqueous solution of sodium chloride. It was dried on anhydrous magnesium sulfate, and the oily matter after the removal of solvent was purified by a column chromatography of silica gel to obtain 323 mg (yield 14 %) of a colorless and oily 4-(2-methyloctanoyl) benzyl alcohol.

reactant | 4-bromobenzyl-(1-ethoxy) ethyl ether | 10.1 mmol, 2.61 g | C(C)OOCCCC1=CC=C(C=C1)Br | C11H15BrO2
reactant | (+)-2-methyl octanoic acid chloride | 9.6 mmol, 1.70 g | CC(C(=O)Cl)CCCCCC | C9H17ClO
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(2-methyloctanoyl) benzyl alcohol | yield 14 % | CC(C(=O)C1=CC=C(CO)C=C1)CCCCCC | C16H24O2
